US04267176
Phosphoryl chloride (500 mg.) was added dropwise to a suspension of 2-(4-aminopyrimidin-2-yl)-2-methoxyiminoacetic acid (syn isomer) (250 mg.) in ethyl acetate (5 ml.) at 0° to 6° C. with stirring and the stirring was continued at the same temperature for 45 minutes. To this solution was added dropwise N,N-dimethylformamide (0.7 ml.) over a period of 6 minutes at 0° to 6° C. with stirring, and the stirring was continued at the same temperature for 40 minutes. To the resultant solution was added all at once a solution of 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (365 mg.) and trimethylsilylacetamide (1.5 g.) in ethyl acetate (7 ml.) under cooling at -20° C., and the mixture was stirred at 0° to 6° C. for an hour. The reaction mixture was poured into water (20 ml.) and adjusted to pH 4 with an aqueous solution of sodium bicarbonate. The aqueous layer was separated out and the remaining organic layer was extracted with water. The aqueous layers were combined together and the ethyl acetate remained in the aqueous solution was removed therefrom under reduced pressure. The aqueous solution was subjected to column chromatography on a non-ionic adsorption resin, "Diaion HP-20" (Trade Mark, manufactured by Mitsubishi Chemical Industry Ltd.) (20 ml.). After the column was washed with water, elution was carried out with 5-10% aqueous methanol (100 ml.), 20% aqueous methanol (150 ml.) and 20 to 30% aqueous methanol (150 ml.) in turn, and the fractions containing the desired compound were collected and evaporated to dryness under reduced pressure. The resultant residue was lyophilized to give 7-[2 -(4-aminopyrimidin-2-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer) (110 mg.), mp. 155° to 158° C.

reactant | Phosphoryl chloride | 500 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(4-aminopyrimidin-2-yl)-2-methoxyiminoacetic acid | 250 mg | NC1=NC(=NC=C1)C(C(=O)O)=NOC | C7H8N4O3
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 365 mg | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C10H12N6O3S2
reactant | trimethylsilylacetamide | 1.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 7 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 0.7 ml | CN(C=O)C | C3H7NO
product | 7-[2 -(4-aminopyrimidin-2-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 110 mg | NC1=NC(=NC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)=NOC | C17H18N10O5S2
